reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[N:3](\[C:4]([H:13])([H:14])[H:15])=[C:5](/[O:6][H:10])[C:7]([H:16])([H:17])[H:18]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],28.255957214488213
[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]=[C:4]([O:5][H:9])[N:6]([H:10])[H:11])([H:7])[H:8],52.656683117072106
[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]=[C:5]([O:6][H:11])[H:12])[H:10])([H:7])([H:8])[H:9],60.3555363936499
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:12])([H:8])([H:9])[H:10].[H:11][H:13],91.4551905001154
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:12])=[C:6]([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],50.416877700237904
[O:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:7])[H:8])[C:5](=[O:6])[H:12]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],72.00558225697854
[C:1]([C:2]#[C:3][C:4](=[C:5]=[N:6][H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],66.6742659606075
[C:3](=[O:4])([C:5]([O:6][H:14])([H:12])[H:13])[H:10].[H:7][H:11].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],62.1622252616351
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[C:4]([O:5][H:15])[H:13].[N:1]([C@@:2]([C:3]([H:11])([H:12])[H:14])([C:6]#[N:7])[H:10])([H:8])[H:9],86.9170815813456
[C:1]([C@@:5]1([N:7]([H:13])[H:14])[C@@:2]([C:3](=[O:4])[H:12])([H:11])[O:6]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],70.0997290939078
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3][C:4]([C:5]([O:6][H:12])([H:15])[H:16])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],74.4986204601948
[O+:1](=[C:2]([N:3]([C-:4]([H:9])[H:10])[H:8])[H:7])[C:5]#[C:6][H:11]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],19.231704452973204
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[C:4]([C:5]#[N:6])([H:13])[H:14])[H:10])([H:7])([H:8])[H:11].[H:9][H:12],106.34827421154499
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[N:4]\[H:14])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:12])[H:15],101.984741522304
[C:1]([c:2]1[c:3]([H:11])[o:4][c:5]([O:6][H:12])[n:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][H:11])([H:8])([H:9])[H:10].[O:4]1[C:5]([O:6][H:12])=[N:7]1,125.22438474834401
[C:2](=[C:3]([O:4][H:11])[C:5]([O:6][H:14])([H:12])[H:13])([H:8])[H:9].[O:1]([H:7])[H:10]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],69.78587911939225
[C:1]([O:2][C@:3]1([H:10])[C:4]([H:12])([H:13])[C:5]1=[C:6]([H:11])[H:14])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],78.50947924064872
[C:1]([C:2][C:4]([C:3]([O:5][C:6](=[O:7])[H:15])([H:11])[H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],52.87188274949071
[C:5](#[N:6])[H:8].[O:1]([C-:2]=[C:3]=[C+:4][H:9])[H:7]>>[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7],19.246316860941008
[C:1]([C:2]([O:3][H:12])=[C:4]([H:13])[H:14])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:15].[H:11][H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],50.73824142554119
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8]>>[C-:4]#[O+:5].[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[H:13])([H:6])([H:7])[H:8],84.93855042452729
[C:4](=[O:5])([H:10])[H:11].[C:6](#[N:7])[H:12].[N:1]([C:2](=[O:3])[H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],61.49995915383991
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[O:1]1[C@:2]2([H:8])[C@@:3]1([H:9])[O:4][C@@:5]2([O:6][H:7])[H:10],52.1830154490126
[C:1](=[N:2]/[C:3](=[N:4]/[H:11])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])[H:10].[H:9][H:12]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],24.1697709440977
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13]>>[C:1]([C:5](/[C:4](=[C:3](\[C:2][H:9])[H:10])[H:11])([H:12])[H:13])([H:6])([H:7])[H:8],89.54266412336409
